// Task 3
.include 45nm_bulk.txt
.param VDD=1.1 VBL=1.1
Vdd vdd 0 'VDD'
Vwl wl 0 PWL(0 0 1n 0 1.05n 'VDD')
MP1 qb q vdd vdd pmos W=0.15u L=0.045u
MN1 qb q 0 0 nmos W=0.20u L=0.045u
MP2 q qb vdd vdd pmos W=0.15u L=0.045u
MN2 q qb 0 0 nmos W=0.20u L=0.045u
MA1 bl wl q 0 nmos W=0.16u L=0.045u
MA2 blb wl qb 0 nmos W=0.16u L=0.045u
Cbl bl 0 180f IC='VBL'
Cblb blb 0 180f IC='VBL'
.ic v(q)=0 v(qb)='VDD'
.control
* i = 10..0  ->  VDD = 0.6 + 0.05*i  (1.1 V down to 0.6 V)
let i = 10
while i >= 0
  let vdd_val = 0.6 + 0.05 * i
  alterparam VDD = $&vdd_val
  alterparam VBL = $&vdd_val
  reset
  tran 5p 4n uic
  let diff_v = v(blb) - v(bl)
  meas tran dv find diff_v at=2.0n
  meas tran qmax MAX v(q) FROM=1n TO=4n
  echo SWEEP_POINT vdd = $&vdd_val
  let i = i - 1
end
* Extension below the required 0.6V floor: locate where dV crosses the
* 25 mV sense-amp offset (VDD = 0.55 ... 0.40 V).
let i = -1
while i >= -4
  let vdd_val = 0.6 + 0.05 * i
  alterparam VDD = $&vdd_val
  alterparam VBL = $&vdd_val
  reset
  tran 5p 4n uic
  let diff_v = v(blb) - v(bl)
  meas tran dv find diff_v at=2.0n
  meas tran qmax MAX v(q) FROM=1n TO=4n
  echo SWEEP_POINT vdd = $&vdd_val
  let i = i - 1
end
quit
.endc
.end